US05218109
To a solution of 53 mg of 20-methyl-1α,3β-bis-(methoxycarbonyloxy)-21-p-toluenesulfonyloxypregna-5,7 -diene in 5 ml of acetone was added 120 mg of sodium iodide and the mixture was heated under reflux for 4 hours. The reaction mixture was cooled, then the acetone was distilled off under reduced pressure, water was added to the residue, and the resulting mixture was extracted with diethyl ether. The extract was washed with water, an aqueous solution of sodium thiosulfate, water, an aqueous solution of sodium hydrogen carbonate and an aqueous solution of sodium chloride, then dried over sodium sulfate and concentrated. Purification of the residue by silica gel column chromatography gave 38 mg of 21-iodo-20-methyl-1α,3β-bis(methoxycarbonyloxy)-pregna-5,7-diene.

reactant | 20-methyl-1α,3β-bis-(methoxycarbonyloxy)-21-p-toluenesulfonyloxypregna-5,7 -diene | 53 mg | CC(COS(=O)(=O)C1=CC=C(C=C1)C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC | C33H44O9S
reactant | sodium iodide | 120 mg | [I-].[Na+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 21-iodo-20-methyl-1α,3β-bis(methoxycarbonyloxy)-pregna-5,7-diene | 38 mg | ICC([C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC)C | C26H37IO6
